US07847045B2
Under a nitrogen atmosphere, 23.6 g (0.1 mols) of 1-hydroxy-3-methacryloyloxyadamantane (HAMA) was dissolved in 100 ml of tetrahydrofuran (THF) and 21.6 g (0.3 mols) of vinyl ethyl ether and 0.1 ml (1 mmol) of hydrochloric acid were added, followed by stirring at room temperature for 3 days. The reaction solution was neutralized with an aqueous Na2CO3 solution added and, after phase separation, the upper layer was washed with water so as to adjust the pH to 7. MgSO4 was added and the solution was dehydrated and filtered, and then concentrated to dryness to obtain 30 g of 1-(1′-ethoxyethoxy)-3-methacryloyloxyadamantane (EEAM) (yield: 99%)

reactant | 1-hydroxy-3-methacryloyloxyadamantane | 0.1 mols, 23.6 g | OC12CC3(CC(CC(C1)C3)C2)OC(C(=C)C)=O | C14H20O3
reactant | vinyl ethyl ether | 0.3 mols, 21.6 g | C(C)OC=C | C4H8O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | hydrochloric acid | 1 mmol, 0.1 ml | Cl | ClH
product | 1-(1′-ethoxyethoxy)-3-methacryloyloxyadamantane | 30 g, yield: 99% | C(C)OC(C)OC12CC3(CC(CC(C1)C3)C2)OC(C(=C)C)=O | C18H28O4
